Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
3 days of loss of peripheral vision on R and headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo man with history of diet-controlled HLD,
tobacco use, obesity  and migraine who presents with 3 days of
loss of peripheral vision on R and headache.
Mr. ___ was in his usual state of health after working
overnight ___ night, until 1100 ___ am. He then had
onset of headache, and noted a bright light in his right field 
of
vision at onset, which he states is typical for his migraines.
The headache continued, and he complained to his wife later in
the day about a problem with his peripheral vision on the right. 

His headache, and peripheral vision loss in the right continued
through the day ___ and ___.  His wife notes that he
slept much of those past 3 days. Mr. ___ said he felt 'out of
it', and his wife said that he seemed distant, and dismissed her
questions.
He presented today to OSH ED due to continued headache.  There
were no new symptoms that prompted presentation.
OSH ED noted L PCA distribution infact on CT and transferred
patient to ___. 

 
Past Medical History:
migraine with aura
HLD
obesity
Seasonal allergies
Bladder cancer dx'd incidentally ___ year ago, s/p resection, no
chemo nor radiation. Was told it was found very early.
History of diverticulitis
Patent foramen ovale (dx during hospital stay)

 
Social History:
___
Family History:
Mother passed away from CHF
Father living, diagnosed with A. fib at age ___

 
Physical Exam:
Vitals:  T: 98.6 HR: 89 BP: 143/89 RR: 15 SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented to self, 'hospital' but
not which, stated ___. Able to relate history with mild
difficulty. Mildly inattentive, with MOYB he names each month
slowly and skips ___ before self-correcting unprompted. Speech
is fluent with normal grammar and syntax. No paraphasic errors.
Naming intact to low frequency words. Repetition intact. Reading
intact. Comprehension intact to complex commands. Normal 
prosody.
Able to register 3 objects at 30 seconds and recall ___ at 5
minutes, ___ with category clue, ___ with MC. No evidence of
hemi-neglect. 

-Cranial Nerves: PERRL 3->2. Dense R homonymous hemianopsia. 
EOMI
without nystagmus. Facial sensation intact to light touch. Face
symmetric at rest and with activation. Hearing intact to
conversation. Palate elevates symmetrically. ___ strength in
trapezii bilaterally. Tongue protrudes in midline and moves
briskly to side.

- Motor:  Normal bulk and tone.  Subtle right pronation without
downward drift.  No tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5                    
R  5    ___   ___  5   5    5  5                

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    3   3     -              -
 R  2  2    2    3   3     -              -
Plantar response was flexor bilaterally.

-Sensory:  No deficits to light touch, cold sensation 
throughout.
Proprioception intact to all but the smallest movements 
bilateral
toes

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: deferred

 
Pertinent Results:
___ 08:14AM BLOOD WBC-8.3 RBC-4.58* Hgb-14.9 Hct-44.5 
MCV-97 MCH-32.5* MCHC-33.5 RDW-12.4 RDWSD-44.0 Plt ___
___ 10:19PM BLOOD Neuts-56.7 ___ Monos-7.8 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-5.57 AbsLymp-3.39 AbsMono-0.77 
AbsEos-0.05 AbsBaso-0.02
___ 08:14AM BLOOD ___ PTT-26.7 ___
___ 08:14AM BLOOD Glucose-109* UreaN-13 Creat-1.0 Na-140 
K-4.2 Cl-103 HCO3-24 AnGap-17
___ 08:14AM BLOOD Calcium-9.8 Phos-3.5 Mg-2.3 Cholest-201*
___ 08:14AM BLOOD %HbA1c-5.7 eAG-117
___ 08:14AM BLOOD Triglyc-155* HDL-32 CHOL/HD-6.3 
LDLcalc-138*
___ 08:14AM BLOOD TSH-1.9
 
Brief Hospital Course:
Hospital Course:
After evaluation in the ED, pt was admitted to Neurology Stroke 
service, where he was observed on telemetry, and he was noted to 
be in normal sinus rhythm throughout his hospitalization. MRI 
brain confirmed PCA territory stroke with hemorrhagic 
conversion. Echocardiogram was significant for PFO. MRV of 
pelvis and ___ US were negative. Repeat Head CT showed no 
progression of hemorrhage, so ASA 81 mg was started on HD 3. Pt 
has outpatient follow up with neuroophthalmology and outpatient 
neurology appt with Dr. ___ in 3 months (___). He should 
have sleep study, since he has a history of untreated OSA and 
there is an association between OSA and pAFib. We will also need 
long-term cardiac monitoring to assess for atrial fibrillation. 
We would prefer to place  a REVEAL device, since this might 
allow us to monitor him for AFib for a longer period of time  
He will also need ___ Perimetry to assess the extents of 
his visual field defect. 

___ MRI/MRA "Evolving left posterior cerebral artery 
infarction with multiple areas of hemorrhagic transformation. 
Possible mild narrowing of the distal left posterior cerebral 
artery. No evidence of new infarction." 

___ echo
The left atrial volume index is normal. No atrial septal defect 
is seen on color flow Doppler, but there is early appearance of 
agitated saline/microbubbles in the left atrium/ventricle at 
rest most consistent with an atrial septal defect or stretched 
patent foramen ovale (though a very proximal intrapulmonary 
shunt cannot be fully excluded). Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Likely patent foramen ovale/small atrial septal 
defect. Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology identified.  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (x) No
4. LDL documented? (x) Yes (LDL = 138) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
 ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - () N/A
========================================
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY:PRN seasonal allergies 
2. Ibuprofen 400 mg PO DAILY:PRN Headache 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*5 
4.  Loratadine 10 mg PO DAILY:PRN seasonal allergies  
5.Outpatient Occupational Therapy
evaluate and treat
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L PCA ischemic stroke w/ minimal hemorrhagic conversion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of right visual field 
deficit and headache resulting from an acute ischemic stroke, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Hyperlipidemia
Obesity
Migraine with aura
History of tobacco use
History of bladder cancer
Patent foramen ovale

We are changing your medications as follows:
Aspirin 81mg
Atorvastatin 80mg qPM

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___